datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])[S:11][H:18])([H:12])([H:13])[H:14]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][C:9]([C:8]([H:12])([H:13])[H:14])([C:10]([H:15])([H:16])[H:17])[S:11][H:18],65.2704
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](=[C:9]([H:11])[H:12])[H:10]>>[C:0](=[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])([H:4])[C:8](=[C:9]([H:11])[H:12])[H:10],0.54392
[C:0](#[C:1][C:2]([C:3]([H:14])([H:15])[H:16])=[C:4]([C:5](=[C:6]([H:18])[H:19])[H:17])[C:7]([C:8]([C:9]([C:10]([C:11]([H:26])([H:27])[H:28])[C:12]([H:29])([H:30])[H:31])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])[H:13]>>[C:0](#[C:1][C:2]1([C:3]([H:14])([H:15])[H:16])[C:4]([C:5](=[C:6]([H:18])[H:19])[H:17])[C:7]([H:20])([H:21])[C:8]([H:22])([H:23])[C:9]([H:24])([H:25])[C:10]1([C:11]([H:26])([H:27])[H:28])[C:12]([H:29])([H:30])[H:31])[H:13],39.748
[C:0]([C:1]([N:2]([H:7])[H:8])([H:5])[H:6])([H:3])[H:4]>>[C:0]([C:1]([N:2]([H:7])[H:8])[H:6])([H:3])([H:4])[H:5],133.0512
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12]([C:13]([C:14]([H:19])([H:20])[H:21])[C:15]([H:22])([H:23])[H:24])([H:16])([H:17])[H:18]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])([C:3]([H:9])([H:10])[H:11])[C:13]([C:12]([H:16])([H:17])[H:18])([C:14]([H:19])([H:20])[H:21])[C:15]([H:22])([H:23])[H:24])([H:4])[H:5],20.3342
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7]([C:8]([H:18])([H:19])[H:20])[c:9]1[c:10]([H:21])[c:11]([H:22])[c:12]([H:23])[c:13]([H:24])[c:14]1[H:25])([H:15])([H:16])[H:17]>>[C:0]([S:1])([H:2])([H:3])[H:4].[H:5][C:7]([C:6]([H:15])([H:16])[H:17])([C:8]([H:18])([H:19])[H:20])[c:9]1[c:10]([H:21])[c:11]([H:22])[c:12]([H:23])[c:13]([H:24])[c:14]1[H:25],6.276
[C:0](=[C:1]1[C:2]([H:9])=[C:3]([H:10])[C:4]([H:11])[C:5]([H:12])=[C:6]1[H:13])([H:7])[H:8].[H:14]>>[C:0](=[C:1]1[C:2]([H:9])=[C:3]([H:10])[C:4]([H:11])([H:14])[C:5]([H:12])=[C:6]1[H:13])([H:7])[H:8],-1.393272
[C:0]#[N:1].[N:2]=[C:3]=[N:4]>>[C:0](#[N:1])[N:2]=[C:3]=[N:4],-145.147144
[C:0](=[C:1]([N:2]([H:6])[H:7])[H:5])([H:3])[H:4].[N:8]([H:9])[H:10]>>[C:0](=[C:1][N:2]([H:6])[H:7])([H:3])[H:4].[H:5][N:8]([H:9])[H:10],42.986416
[C:0](=[C:1]([c:2]1[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]1[C:8]#[C:9][H:16])[H:11])[H:10]>>[C:0]1([H:10])=[C:1]([H:11])[c:2]2[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]2[C:8]1=[C:9][H:16],15.886648
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6]([C:7]([S:8][H:18])[c:9]1[c:10]([H:19])[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]1[H:23])([H:15])([H:16])[H:17]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][C:7]([C:6]([H:15])([H:16])[H:17])([S:8][H:18])[c:9]1[c:10]([H:19])[c:11]([H:20])[c:12]([H:21])[c:13]([H:22])[c:14]1[H:23],105.353
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[O:12][O:13][H:14]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[H:6][O:12][O:13][H:14],53.563568
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6]([C:7]([H:11])([H:12])[H:13])([H:8])([H:9])[H:10]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:8])[H:3].[C:6]([C:7]([H:11])([H:12])[H:13])([H:9])[H:10],66.5256
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[H:9])([H:7])[H:8].[c:19]1[c:20]([H:25])[c:21]([H:26])[c:22]([H:27])[c:23]([H:28])[c:24]1[H:29]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[c:19]1[c:20]([H:25])[c:21]([H:26])[c:22]([H:27])[c:23]([H:28])[c:24]1[H:29])[H:9])([H:7])[H:8],5.06264
[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[C:24]([H:25])([H:26])[H:27]>>[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[H:18][C:24]([H:25])([H:26])[H:27],47.567896
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])=[C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[H:14])([H:12])[H:13].[C:24]([C:25]([C:26]([H:36])([H:37])[H:38])[c:27]1[c:28]([H:39])[c:29]([H:40])[c:30]([H:41])[c:31]([H:42])[c:32]1[H:43])([H:33])([H:34])[H:35]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])([C:5]([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:18])[C:25]([C:24]([H:33])([H:34])[H:35])([C:26]([H:36])([H:37])[H:38])[c:27]1[c:28]([H:39])[c:29]([H:40])[c:30]([H:41])[c:31]([H:42])[c:32]1[H:43])[H:14])([H:12])[H:13],39.999
